US07875609B2
2.04 g (13.5 mmol, 1 eq.) of 3-nitrobenzaldehyde, 2.90 g (14.85 mmol, 1.1 eq.) of tosylmethyl isocyanide, 200 mL of MeOH and 200 mL of DME are introduced into a 1 L flask. 25 g of Amberlyst A26 OH— resin are added and the mixture is heated under reflux for 1 hour. The reaction medium is cooled to room temperature, then the resin is filtered over a frit and rinsed with methanol. After concentration to dryness, 2.56 g (yield=100%) of 5-(3-nitrophenyl)oxazole are obtained. The product is used without subsequent purification.

reactant | 3-nitrobenzaldehyde | 13.5 mmol, 2.04 g, 1 eq. | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | tosylmethyl isocyanide | 14.85 mmol, 2.90 g, 1.1 eq. | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | MeOH | 200 mL | CO | CH4O
solvent | DME | 200 mL | COCCOC | C4H10O2
product | 5-(3-nitrophenyl)oxazole | 2.56 g, yield=100% | [N+](=O)([O-])C=1C=C(C=CC1)C1=CN=CO1 | C9H6N2O3
